US08071592B2
5-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-6-oxo-5,6-dihydro-1,5-naphthyridine-3-carbonitrile Dihydrochloride
A solution of 5-[2-(4-amino-1-piperidinyl)ethyl]-6-oxo-5,6-dihydro-1,5-naphthyridine-3-carbonitrile (44 mg, 0.148 mmol) and 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde (for a synthesis see WO2004058144, Example 2(c) or WO03/087098, Example 19(d)) (24.5 mg, 0.148 mmol) and 3A molecular sieves in chloroform (1 ml) and MeOH (1 ml) was heated at 65° C. for 5 h, cooled and then NaBH(OAc)3 (63 mg, 0.30 mmol) was added. The reaction was stirred at rt for 18 h, filtered through Celite and evaporated. The residue was treated with sat. aq NaHCO3 solution and a 4:1 DCM:MeOH mixture. The aqueous phase was extracted twice with a 4:1 DCM:MeOH mixture and then the combined organic phases were dried and the solvent was removed under reduced pressure. The residue was subjected to column chromatography on silica gel using a DCM, MeOH and aqueous ammonia gradient to provide the free base of the title compound (0.061 g, 92%).

reactant | 5-[2-(4-amino-1-piperidinyl)ethyl]-6-oxo-5,6-dihydro-1,5-naphthyridine-3-carbonitrile | 0.148 mmol, 44 mg | NC1CCN(CC1)CCN1C=2C=C(C=NC2C=CC1=O)C#N | C16H19N5O
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | MeOH | 1 ml | CO | CH4O
reactant | NaBH(OAc)3 | 0.30 mmol, 63 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-6-oxo-5,6-dihydro-1,5-naphthyridine-3-carbonitrile Dihydrochloride | 0.061 g, 92% | Cl.Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C=1C=C(C=NC1C=CC2=O)C#N | InChI=1S/C24H26N6O3.2ClH/c25-13-17-11-21-20(28-14-17)1-2-24(31)30(21)8-7-29-5-3-18(4-6-29)26-15-19-12-22-23(16-27-19)33-10-9-32-22;;/h1-2,11-12,14,16,18,26H,3-10,15H2;2*1H
